US04198512
By following the same procedure as in Example 1 using 0.5 g. of 2-benzyl-3-chloro-1-oxo-1,2-dihydroisoquinoline and 0.6 g. of an aqueous solution of 20% sodium ethylsulfide, 0.37 g. of 2-benzyl-3-ethylthio-1-oxo-1,2-dihydroisoquinoline was obtained (recrystallized from cyclohexane).

reactant | 2-benzyl-3-chloro-1-oxo-1,2-dihydroisoquinoline | C(C1=CC=CC=C1)N1C(C2=CC=CC=C2C=C1Cl)=O | C16H12ClNO
reactant | sodium ethylsulfide | C(C)SCC.[Na]
product | 2-benzyl-3-ethylthio-1-oxo-1,2-dihydroisoquinoline | C(C1=CC=CC=C1)N1C(C2=CC=CC=C2C=C1SCC)=O | C18H17NOS
